US06855716B2
Synthesis of [6-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-4-methyl-2-oxo-3,6-dihydro-2H-pyrimidine-1-yl]acetic acid
59.7 mg (0.109 mmol) of ethyl [6-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-4-methyl-2-oxo-3,6-dihydro-2H-pyrimidine-1-yl]acetate was dissolved in 10 ml of methanol. 0.219 ml of 1 N aqueous sodium hydroxide solution was added to the obtained solution at room temperature, and they were stirred for 12 hours. 1 N hydrochloric acid was added to the reaction mixture. Methanol was evaporated under reduced pressure. Water was added to the residue, and precipitates thus formed were taken by the filtration, then washed with hexane/ethyl acetate (3/1) and dried under reduced pressure to obtain the title compound.

reactant | ethyl [6-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-4-methyl-2-oxo-3,6-dihydro-2H-pyrimidine-1-yl]acetate | 0.109 mmol, 59.7 mg | ClC=1C=C(C=CC1)C1C(=C(NC(N1CC(=O)OCC)=O)C)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H32ClN3O4
reactant | sodium hydroxide | 1 N, 0.219 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | [6-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-4-methyl-2-oxo-3,6-dihydro-2H-pyrimidine-1-yl]acetic acid | ClC=1C=C(C=CC1)C1C(=C(NC(N1CC(=O)O)=O)C)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H28ClN3O4
